US05026634
(a) Synthesis of (4-Octanesulfonamidophenethyl)hydroquinone:
In 1 l-volume three-necked flask were charged 100 g of (4-aminophenethyl)hydroquinone, 500 ml of dimethylacetamide, and 36 ml of pyridine, and 85 ml of octanesulfonyl chloride were slowly added dropwise thereto at room temperature while stirring. After the dropwise addition, the stirring was continued for 4 hours. The reaction mixture was poured into a hydrochloric acid aqueous solution and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and concentrated to obtain 129 g of the entitled compound as an oily substance.

reactant | (4-aminophenethyl)hydroquinone | 100 g | NC1=CC=C(CCC2=C(O)C=CC(=C2)O)C=C1 | C14H15NO2
reactant | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
reactant | octanesulfonyl chloride | 85 ml | C(CCCCCCC)S(=O)(=O)Cl | C8H17ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 36 ml | N1=CC=CC=C1 | C5H5N
product | (4-Octanesulfonamidophenethyl)hydroquinone | 129 g | C(CCCCCCC)S(=O)(=O)NC1=CC=C(CCC2=C(O)C=CC(=C2)O)C=C1 | C22H31NO4S
